US08048862B2
To a solution of compound 3-bromopyridin-4-amine (3 g, 17.4 mmol.) in 20 mL of anhydrous THF was added a solution of LiHMDS (1M in THF, 36.4 mL, 36.4 mmol) at 0° C. After stirring for 30 min, methyl chloroformate (2 g, 20.8 mmol) was added at 0° C. The reaction mixture was stirred at 0° C. for 2 hrs and then at r.t. overnight. The reaction was quenched with saturated aqueous ammonium chloride. The organic solvent was evaporated and the aqueous layer was extracted with ethyl acetate. The organic layers were dried over Na2SO4, concentrated. The crude product was purified by silica gel column chromatography (Petroleum ether:Ethyl acetate=1:2) to afford methyl 3-bromopyridin-4-ylcarbamate (2.34 g, 59%).

reactant | 3-bromopyridin-4-amine | 17.4 mmol, 3 g | BrC=1C=NC=CC1N | C5H5BrN2
reactant | LiHMDS | 36.4 mmol, 1M, 36.4 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | methyl chloroformate | 20.8 mmol, 2 g | ClC(=O)OC | C2H3ClO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | methyl 3-bromopyridin-4-ylcarbamate | 2.34 g, 59% | BrC=1C=NC=CC1NC(OC)=O | C7H7BrN2O2
